US05643878
c) 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(m-fluorophenylmethyl)-hexanoic acid
Analogously to Example 1j), 2.7 g (6.25 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-fluorophenylmethyl)-hexanoic acid in 30 ml of DMF are silylated with 4.33 g (28.8 mmol) of tert-butyldimethylchlorosilane and 3.51 g (51.3 mmol) of imidazole. Hydrolysis of the silyl ester function with 5.1 g of potassium carbonate in 100 ml of methanol/THF/water 4:1:1 yields the title compound after column chromatography (SiO2, hexane/ethyl acetate 2:1): tRet (I)=20.8 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-fluorophenylmethyl)-hexanoic acid | 6.25 mmol, 2.7 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)F)O)CC1=CC=CC=C1 | C24H30FNO5
reactant | tert-butyldimethylchlorosilane | 28.8 mmol, 4.33 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 51.3 mmol, 3.51 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 5.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | methanol THF water | 100 ml | CO.C1CCOC1.O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5(S)-(Boc-amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-(m-fluorophenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)F)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C30H44FNO5Si
